US07291631B2
Using General Procedure B: Reaction of 6,7-dihydro-5H-quinolin-8-one, (4-amino-butyl)-methyl-carbamic acid tert-butyl ester and NaBH(OAc)3 in CH2Cl2 gave methyl-[4-(5,6,7,8-tetrahydro-quinolin-8-ylamino)-butyl]-carbamic acid tert-butyl ester as a yellow oil. 1H NMR (CDCl3) δ 1.45 (s, 9H), 1.50-1.60 (m, 4H), 1.72-1.81 (m, 2H), 1.95-2.20 (m, 4H), 2.67-2.78 (m, 4H), 2.83 (s, 3H), 3.17-3.24 (m, 2H), 3.75-3.79 (m, 1H), 7.06 (dd, 1H, J=7.6, 4.7 Hz), 7.36 (d, 1H, J=7.7 Hz), 8.38 (d, 1H, J=4.5 Hz).

reactant | 6,7-dihydro-5H-quinolin-8-one | N1=CC=CC=2CCCC(C12)=O | C9H9NO
reactant | (4-amino-butyl)-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)CCCCN)=O | C10H22N2O2
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | methyl-[4-(5,6,7,8-tetrahydro-quinolin-8-ylamino)-butyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(CCCCNC1CCCC=2C=CC=NC12)C)=O | C19H31N3O2
